US07728030B2
2,2,2-Trifluoro-N-[(2S,3R)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-yl]acetamide
Prepared as described in Example 1 using (2S,3R)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-amine (60 mg, 0.16 mmol) and trifluoroacetic anhydride (0.090 mL, 0.64 mmol). Yield 45 mg (60%).

reactant | (2S,3R)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-amine | 0.16 mmol, 60 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)CC1=CC=CC=C1 | C23H22FN3O
reactant | trifluoroacetic anhydride | 0.64 mmol, 0.090 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-[(2S,3R)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-yl]acetamide | FC(C(=O)N[C@@H](C)[C@@H](CC1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(F)F | C25H21F4N3O2
